US07985755B2
1-Fluoro-2-iodobenzene (0.58 mL, 5.0 mmol) was added to a mixture of ethyl isonipecotate (1.2 mL, 7.5 mmol), potassium carbonate (1.4 g, 10 mmol), L-proline (0.12 g, 1 mmol) and copper iodide (0.095 g, 0.5 mmol) in 4 mL of dimethyl sulfoxide. Reaction stirred at 90° C. for 48 hours. The mixture was poured into a water (40 mL) solution and extracted with ethyl acetate (EtOAc) (4×10 mL). The combined organic layers were washed with brine (40 mL) and dried over anhydrous Na2SO4. The organic layer was concentrated in vacuo to obtain the crude mixture, which was purified by silica gel flash chromatography, using EtOAc/hexane (gradient system), to obtain 1-(2-fluorophenyl)piperidine-4-carboxylic acid ethyl ester (0.325 g, 26% yield).

reactant | 1-Fluoro-2-iodobenzene | 5.0 mmol, 0.58 mL | FC1=C(C=CC=C1)I | C6H4FI
reactant | ethyl isonipecotate | 7.5 mmol, 1.2 mL | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | potassium carbonate | 10 mmol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | L-proline | 1 mmol, 0.12 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | dimethyl sulfoxide | 4 mL | CS(=O)C | C2H6OS
catalyst | copper iodide | 0.5 mmol, 0.095 g | [Cu](I)I
solvent | water | 40 mL | O | H2O
product | 1-(2-fluorophenyl)piperidine-4-carboxylic acid ethyl ester | 0.325 g, 26% yield | C(C)OC(=O)C1CCN(CC1)C1=C(C=CC=C1)F | C14H18FNO2
